US05246948
i) Synthesis of 4-(4-aminobutylthio)pyridine
To a suspension of 12.50 g (40 mmol) of 4-(4-phthalimidobutylthio)pyridine in 200 ml of ethanol, 5.82 ml (120 mmol) of hydrazine monohydrate was added, and the mixture was stirred at room temperature for 4 hours. Then, 200 ml of ethyl acetate was-added, and the insoluble material was filtered off. The volatile components were distilled off and chloroform was added to the residue. The mixture was washed with saturated saline and dried over potassium carbonate. The solvent was distilled off and 7.30 g of the desired compound were obtained (quantitative yield, yellow oil).

reactant | 4-(4-phthalimidobutylthio)pyridine | 40 mmol, 12.50 g | C1(C=2C(C(N1CCCCSC1=CC=NC=C1)=O)=CC=CC2)=O | C17H16N2O2S
reactant | hydrazine monohydrate | 120 mmol, 5.82 ml | O.NN
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4-(4-aminobutylthio)pyridine | 7.30 g, quantitative yield | NCCCCSC1=CC=NC=C1 | C9H14N2S
